US07662825B2
a) 2,3-Dichloro-N-(5,6-dicyano-3-methoxy-2-pyrazinyl)benzenesulphonamide
Prepared by the method outlined in Example 1 using 5-amino-6-chloro-2,3-dicyanopyrazine (1.8 g) and 2,3-dichlorobenzenesulfonyl chloride (2.7 g). The adduct was reacted by the method outlined in example 31b using sodium methoxide to afford the sub-titled compound that was used directly.

reactant | 5-amino-6-chloro-2,3-dicyanopyrazine | 1.8 g | NC=1N=C(C(=NC1Cl)C#N)C#N | C6H2ClN5
reactant | 2,3-dichlorobenzenesulfonyl chloride | 2.7 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | sodium methoxide | C[O-].[Na+]
product | 2,3-Dichloro-N-(5,6-dicyano-3-methoxy-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC(=C(N=C1OC)C#N)C#N | C13H7Cl2N5O3S
